US04526608
To a solution of N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine (500 mg, 1.38 mmol) in methylene chloride (2 ml) is added pyridine (0.16 ml, 2.00 mmol) and benzene (3 ml), followed by α,α-dichloropropionyl chloride (328 mg, 1.5 eq.). The mixture is stirred at RT for 2 hours. The resulting reaction mixture is then taken up in methylene chloride, washed, dried and evaporated to dryness. The crude product is purified by prep. TLC to yield N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-α,α-dichloropropionyloxyamine. nmr (CDCl3) τ7.77(S,3H,COC Cl2CH3), 6.67(S, 3H, NCH3).

reactant | N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine | 1.38 mmol, 500 mg | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])O | C14H10ClF3N2O4
reactant | pyridine | 2.00 mmol, 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene | 3 ml | C1=CC=CC=C1 | C6H6
reactant | α,α-dichloropropionyl chloride | 328 mg, 1.5 eq. | ClC(C(=O)Cl)(C)Cl | C3H3Cl3O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-α,α-dichloropropionyloxyamine | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])OC(C(C)(Cl)Cl)=O | C17H12Cl3F3N2O5
